US07671235B2
[(R)-6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-methyl-amine hydrochloride (0.4 g, 1.13 mmol) was dissolved in 10 mL methylene chloride and 2.0 mL pyridine, and the mixture was cooled in an ice bath. Methanesulfonyl chloride (0.2 mL) was added dropwise, and the reaction mixture was stirred for 10 minutes at ice bath temperature, then allowed to warm to room temperature. The reaction mixture was quenched by addition of water, and was extracted with methylene chloride. The organic layer was washed with 1% aqueous HCl, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was eluted through silica gel at medium pressure with 1:1: EtOAc/hexanes to give 310 mg of N—[(R)-6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-N-methyl-methanesulfonamide, M+H=412.

reactant | [(R)-6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-methyl-amine hydrochloride | 1.13 mmol, 0.4 g | Cl.FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCC[C@H](C2=CC1)CNC
reactant | Methanesulfonyl chloride | 0.2 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 2.0 mL | N1=CC=CC=C1 | C5H5N
product | N—[(R)-6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-N-methyl-methanesulfonamide | 310 mg | FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCC[C@H](C2=CC1)CN(S(=O)(=O)C)C | C19H22FNO4S2
